US08497264B2
A vial charged with Pd2(dba)3 (0.150 g, 0.164 mmol), XPhos (0.391 g, 0.819 mmol), 5-(tributylstannyl)pyrimidine (1.81 g, 4.92 mmol), 2-bromo-7-methoxy-9H-xanthen-9-one (1.000 g, 3.28 mmol) and dioxane (10 mL). The reaction mixture was evacuated and backfilled with nitrogen. The reaction mixture was heated to 100° C. overnight. The reaction mixture was cooled to RT and diluted with water and EtOAc. A grey solid precipitated out, which was filtered off. The solid was washed with EtOAc and water. The grey solid dried under reduced pressure to afford 2-methoxy-7-(pyrimidin-5-yl)-9H-xanthen-9-one) (0.600 g, 60.2% yield).

reactant | XPhos | 0.819 mmol, 0.391 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 5-(tributylstannyl)pyrimidine | 4.92 mmol, 1.81 g | C(CCC)[Sn](C=1C=NC=NC1)(CCCC)CCCC
reactant | 2-bromo-7-methoxy-9H-xanthen-9-one | 3.28 mmol, 1.000 g | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)OC)=O | C14H9BrO3
catalyst | Pd2(dba)3 | 0.164 mmol, 0.150 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-methoxy-7-(pyrimidin-5-yl)-9H-xanthen-9-one | 60.2% yield | COC1=CC=2C(C3=CC(=CC=C3OC2C=C1)C=1C=NC=NC1)=O | C18H12N2O3
